US08754079B2
207.1 4-(2-Hydroxy-pyridin-3-ylamino)-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester
Prepared analogously to example 1.1 from 0.2 g 4-chloro-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester and 0.1 g 3-amino-pyridin-2-ol in dioxan.

reactant | 4-chloro-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | 0.2 g | COC(=O)C1=C(C2=C(N=CN=C2Cl)S1)C | C9H7ClN2O2S
reactant | 3-amino-pyridin-2-ol | 0.1 g | NC=1C(=NC=CC1)O | C5H6N2O
solvent | dioxan | O1CCOCC1 | C4H8O2
product | 4-(2-Hydroxy-pyridin-3-ylamino)-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | COC(=O)C1=C(C2=C(N=CN=C2NC=2C(=NC=CC2)O)S1)C | C14H12N4O3S
